US07449475B2
2-Methyl-1,3-benzoxazol-6-ol
To a stirred solution of 1-(2,4-dihydroxyphenyl)ethanone (20 g, 131 mmol) in pyridine (80 mL) hydroxylamine hydrochloride (9.1 g, 131 mmol) was added over a period of 15 min in small portions at room temperature. The reaction mixture was stirred for 20 h and then diluted with water (600 mL) and extracted with ethyl acetate (2×250 mL). The combined organic extracts were washed with water (2×250 mL) and 5% aqueous HCl (250 mL). The solvent was removed in vacuo. Water (200 mL) was addded to the residue and then concentrated in vacuo, then toluene (200 mL) was added and concentrated in vacuo. The residue was dissolved in a mixture of acetonitrile (150 mL) and dimethylacetamide (25 mL). The solution was cooled to 5° C., phosphorus oxychloride (20.4 g, 12.2 mL, 133 mmol) was added dropwise allowing the temperature to exceed 10° C. After the addition was complete, the reaction mixture was stirred at room temperature for 1 h and then it was slowly poured into a mixture of sodium carbonate (55 g) and ice (ca 800 g). After the ice melted, the resulting slurry was filtered and the solid collected was washed with water (2×150 mL). The product was dried in vacuo to afford a yellow powder (14.4 g, 97 mmol, 76%).

reactant | 1-(2,4-dihydroxyphenyl)ethanone | 131 mmol, 20 g | OC1=C(C=CC(=C1)O)C(C)=O | C8H8O3
reactant | pyridine | 131 mmol, 80 mL, 9.1 g | N1=CC=CC=C1 | C5H5N
reactant | phosphorus oxychloride | 133 mmol, 12.2 mL, 20.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | 55 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 600 mL | O | H2O
product | 2-Methyl-1,3-benzoxazol-6-ol | 97 mmol, 14.4 g, 76% | CC=1OC2=C(N1)C=CC(=C2)O | C8H7NO2
